Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Ticlid
 
Attending: ___
 
Chief Complaint:
 shortness of breath on exertion

 
Major Surgical or Invasive Procedure:
___
1. Coronary artery bypass graft x4:  Left internal mammary
    artery to left anterior descending artery and saphenous
    vein grafts to ramus obtuse marginal and posterior
    descending arteries.
2. Endoscopic harvesting of the long saphenous vein.

 
History of Present Illness:
___ very active male with history of CAD.  He jogs daily and 
has
noted an increase in dyspnea with jogging recently.  Stress test
was abnormal and cath revealed three vessel coronary artery
disease.  He is referred for surgical revascularization.

 
Past Medical History:
PMHx: S/P cardiac cath ___ with CAD noted, medically managed 
Multiple Myeloma treated with chemotherapy every 3 months, most 
recently in ___ (Due again at the end of ___, Hyperlipidemia 
Hypertension, Elbow injury in his early ___, Tonsillectomy, left 
elbow surgery

Past Surgical History
Tonsillectomy 
left elbow surgery

 
Social History:
___
Family History:
Father died of MI in his early ___

 
Physical Exam:
Pulse: 54 Resp: 27  O2 sat: 98% 
B/P  Right:    Left:  156/78
Height: 5'8"    Weight: 170lb

General: NAD, anxious, physically fit
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [] none__
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: cath   Left: 2+
DP           Right: 2+  Left:2+
___           Right: 1+  Left:1+
Radial       Right: 2+  Left:2+

Carotid Bruit: none appreciated

 
Pertinent Results:
___ Intra-op TEE
PRE-BYPASS: 
The left atrium is normal in size. No spontaneous echo contrast 
or thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. 
There is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. There is mild regional left 
ventricular systolic dysfunction with focalities in the apical 
walls. Overall left ventricular systolic function is mildly 
depressed (LVEF=45 %).
Right ventricular chamber size and free wall motion are normal. 
There are simple atheroma in the descending thoracic aorta. 
The aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. Mild to Moderate (2+) aortic 
regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. 
There is a small pericardial effusion.
Dr. ___ was notified in person of the results before surgical 
incision.

POST-BYPASS: 
Normal RV systolic function.
Intact thoracic aorta.
LVEF 50%.
Mild improvement of previously hypokinetic apex.
No New valvular findings.
.

___ 05:30AM BLOOD WBC-4.1 RBC-2.75* Hgb-8.8* Hct-26.1* 
MCV-95 MCH-32.0 MCHC-33.7 RDW-13.4 Plt ___
___ 05:14AM BLOOD WBC-3.9* RBC-2.77* Hgb-8.8* Hct-25.9* 
MCV-94 MCH-31.9 MCHC-34.1 RDW-13.3 Plt ___
___ 05:30AM BLOOD UreaN-21* Creat-0.8 Na-140 K-4.3 Cl-103
___ 04:38AM BLOOD Glucose-107* UreaN-16 Creat-0.9 Na-141 
K-4.0 Cl-105 HCO3-30 AnGap-___RIEF HOSPITAL COURSE:
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent CABG X 4.  
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  Cefazolin was 
used for surgical antibiotic prophylaxis.  Immediately 
post-operatively, the patient had significant sanginous chest 
tube output. Multiple products were given including PRBCs, Plts, 
FFP, and Cryo. Protamine was also given for ACT in the 130's. 
The patient's Hct decreased to 19. SBPs were high, and a Nitro 
gtt was required for maintain normal BPs. CXR did not show 
evidence of tamponade. The patient remained intubated overnight 
with high PEEPs in attempts to decrease bleeding. Ultimately, 
the output became less and serous in nature. Hct after 
transfusions was 25. On POD 1, the patient was extubated. He was 
alert and oriented and breathing comfortably.  The patient was 
neurologically intact and hemodynamically stable on no inotropic 
or vasopressor support.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the physical 
therapy service for assistance with strength and mobility. On 
POD 3, Plavix was started (the patient was on Plavix before the 
operation, however there is no history of stent placement). 
Additionally, the patient had short bursts of A-Fib seen on 
telemetry. SBP was stable and the patient was asymptomatic. His 
beta-blocker was increased and Amiodarone was started orally.  
By the time of discharge on POD 5 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  He is in normal sinus rhythm. The patient was 
discharged to ___ in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
___: AMLODIPINE 10', ATENOLOL 100', ATORVASTATIN 80', Plavix 
75', Tricor 96', FINASTERIDE 5', ISOSORBIDE MONONITRATE ER 30', 
NITROGLYCERIN 0.4 PRN, Flomax 0.4' 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
Hold for sbp<100 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 
5. Tamsulosin 0.4 mg PO HS 
6. Tricor *NF* (fenofibrate nanocrystallized) 96 mg ORAL DAILY 
7. Acetaminophen 650 mg PO Q4H:PRN pain 
8. Amiodarone 400 mg PO BID 
___ bid x 1 week, then 400mg daily x 1 week, then 200mg dailyq 

9. Aspirin EC 81 mg PO DAILY 
10. Furosemide 20 mg PO DAILY Duration: 1 Weeks 
11. Metoprolol Tartrate 50 mg PO TID 
Hold for HR < 55 or SBP < 90 and call medical provider. 
12. Potassium Chloride 20 mEq PO DAILY Duration: 1 Weeks 
Hold for K+ > 4.5 
13. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease, s/p CABG
PMH:
S/P cardiac cath ___ with CAD noted, medically managed
Multiple Myeloma treated with chemotherapy every 3 months, most
  recently in ___ (Due again at the end of ___
Hyperlipidemia
Hypertension
Elbow injury in his early ___

Past Surgical History
Tonsillectomy 
left elbow surgery

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
trace edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___